US07470724B2
(2-{4-[(2,4-Diamino-pteridin-6-ylmethyl)-methyl-amino]-benzoylamino}-ethyl)-phosphonic acid diethyl ester
To a solution of 4-[(2,4-diamino-pteridin-6-ylmethyl)-methyl-amino]-benzoic acid hemihydrochloride dihydrate (61.2 mg, 161 μmol) in DMF (2.8 mL) were added diethyl cyanophosphonate (31.8 μL, 210 μmol) and DIEA (27.8 μL, 161 μmol). The solution was stirred at ambient temperature for 4 hours, when diethyl(aminoethyl)phosphonate (43.8 mg, 161 μmol) was added. The solution was stirred for 3 additional hours, by which time complete consumption of the starting materials was observed. The reaction was worked up by removal of the solvent in vacuo and purifying the residue by silica gel chromatography using MeOH—CH2Cl2 (10-30%). The product collected from this chromatography step was sufficiently pure to be carried on to the next reaction. A small amount of the product (32 mg) was re-purified by RP HPLC on C18 column using H2O/acetonitrile (2-95%) to provide 19 mg (70%) of the pure product. 1H NMR (300 MHz, DMSO-d6) δ 1.21 (t, 6H, J=7 Hz), 1.95-2.05 (m, 2H), 3.20 (s, 3H), 3.13-3.22 (m, 2H), 3.98 (appt septet, 4H, J=7 Hz), 4.79 (s, 2H), 6.80 (d, 2H, J=9 Hz), 7.65 (d, 2H, J=9 Hz), 8.20 (br s, 1H), 8.60 (s, 1H). 31P (121.4 MHz, DMSO-d6) δ 28.9. MS (m/z) 489.2 [M+H]+, 511.2 [M+Na]+.

reactant | 4-[(2,4-diamino-pteridin-6-ylmethyl)-methyl-amino]-benzoic acid hemihydrochloride dihydrate | 161 μmol, 61.2 mg | O.O.Cl.NC1=NC2=NC=C(N=C2C(=N1)N)CN(C1=CC=C(C(=O)O)C=C1)C.NC1=NC2=NC=C(N=C2C(=N1)N)CN(C)C1=CC=C(C(=O)O)C=C1.O.O
reactant | diethyl cyanophosphonate | 210 μmol, 31.8 μL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | DIEA | 161 μmol, 27.8 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | diethyl(aminoethyl)phosphonate | 161 μmol, 43.8 mg | C(C)OP(OCC)(=O)CCN | C6H16NO3P
solvent | DMF | 2.8 mL | CN(C)C=O | C3H7NO
product | (2-{4-[(2,4-Diamino-pteridin-6-ylmethyl)-methyl-amino]-benzoylamino}-ethyl)-phosphonic acid diethyl ester | 19 mg, 70% | C(C)OP(OCC)(=O)CCNC(C1=CC=C(C=C1)N(C)CC=1N=C2C(=NC(=NC2=NC1)N)N)=O | C21H29N8O4P
